US07368578B2
(3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol (4.20 g) was added to thionyl chloride (5 mL) at 0° C., and the mixture was stirred for 2 hrs. The reaction mixture was concentrated, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-{[2-bromo-4-(chloromethyl)phenoxy]methyl}-2-(2-furyl)-5-methyloxazole as pale-yellow crystals (3.82 g, yield 87%). Recrystallization from ethyl acetate-hexane gave pale-yellow needle crystals. melting point: 125-126° C.

reactant | (3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol | 4.20 g | BrC=1C=C(C=CC1OCC=1N=C(OC1C)C=1OC=CC1)CO | C16H14BrNO4
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-{[2-bromo-4-(chloromethyl)phenoxy]methyl}-2-(2-furyl)-5-methyloxazole | 3.82 g, yield 87% | BrC1=C(OCC=2N=C(OC2C)C=2OC=CC2)C=CC(=C1)CCl | C16H13BrClNO3
